US04258060
3-(1,1-Dimethylethylamino)-1,1,1-trichloro-2-propanol can then be reacted with methyl chloroformate at about -70° to +70° C. in the presence of an acid acceptor such as triethylamine in a solvent such as dichloromethane to produce methyl (1,1-dimethylethyl)-(3,3,3-trichloro-2-hydroxypropyl)carbamate.

reactant | 3-(1,1-Dimethylethylamino)-1,1,1-trichloro-2-propanol | CC(C)(C)NCC(C(Cl)(Cl)Cl)O | C7H14Cl3NO
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
product | methyl (1,1-dimethylethyl)-(3,3,3-trichloro-2-hydroxypropyl)carbamate | CC(C)(C)N(C(OC)=O)CC(C(Cl)(Cl)Cl)O | C9H16Cl3NO3
